US07737070B2
To a suspension of 1,3-bis(2,6-diisopropylphenyl)-iminoimidazoline (2.03 g, 5.0 mmol) and cyclopentadienyltitanium trichloride (1.10 g, 5.0 mmol) in toluene (30 mL) was added triethylamine (0.8 mL, 5.7 mmol) at ambient temperature. After stirring for 1 hour, the thick yellow-orange suspension was diluted with toluene (50 mL) and ligroin (120 mL). The suspension was heated to reflux and filtered hot. Cooling to approx. 4° C. afforded yellow crystals, which were filtered and washed with cold ligroin to give 1.34 g (46% yield) of NMR pure 1,3-bis(2,6-diisopropylphenyl)-iminoimidazoline cyclopentadienyl titanium dichloride.

reactant | 1,3-bis(2,6-diisopropylphenyl)-iminoimidazoline | 5.0 mmol, 2.03 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N1CN(C(C1)=N)C1=C(C=CC=C1C(C)C)C(C)C | C27H39N3
reactant | cyclopentadienyltitanium trichloride | 5.0 mmol, 1.10 g | [Cl-].[Cl-].[Cl-].C1(C=CC=C1)[Ti+3]
reactant | triethylamine | 5.7 mmol, 0.8 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 1,3-bis(2,6-diisopropylphenyl)-iminoimidazoline cyclopentadienyl titanium dichloride | 46% yield | [Cl-].[Cl-].C1(C=CC=C1)[Ti+2].C(C)(C)C1=C(C(=CC=C1)C(C)C)N1CN(C(C1)=N)C1=C(C=CC=C1C(C)C)C(C)C | InChI=1S/C27H39N3.C5H5.2ClH.Ti/c1-17(2)21-11-9-12-22(18(3)4)26(21)29-15-25(28)30(16-29)27-23(19(5)6)13-10-14-24(27)20(7)8;1-2-4-5-3-1;;;/h9-14,17-20,28H,15-16H2,1-8H3;1-5H;2*1H;/q;;;;+2/p-2
